US05686421
3b. [5-(S)-(3-Guanidino-propyl)-2,4-dioxo-imidazolidin-3-yl]acetic acid
67.5 g of Z-Arg-Gly-OtBu are suspended in 800 ml of absolute tetrahydrofuran and refluxed for 2 hours. The mixture is then concentrated and the residue is triturated with methyl tert.-butyl ether. The precipitate is filtered off with suction and dried. Yield 54.2 g.

reactant | Z-Arg-Gly-OtBu | 67.5 g | N([C@@H](CCCNC(N)=N)C(=O)NCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C20H31N5O5
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | [5-(S)-(3-Guanidino-propyl)-2,4-dioxo-imidazolidin-3-yl]acetic acid | N(C(=N)N)CCC[C@H]1C(N(C(N1)=O)CC(=O)O)=O | C9H15N5O4
